US08003649B2
A mixture of 1-(4-piperazin-1-ylphenyl)ethanone and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 1-[4-[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]phenyl]ethanone.

reactant | 1-(4-piperazin-1-ylphenyl)ethanone | N1(CCNCC1)C1=CC=C(C=C1)C(C)=O | C12H16N2O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 1-[4-[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]phenyl]ethanone | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)C(C)=O)(F)F | C18H17F3N6O
